US05616586
8-Bromo-5-aminomethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione hydrochloride
A solution of 8-bromo-5-phthalimidomethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione (100 mg)in a mixture of acetic acid (6 mL) and concentrated HCl (6 mL) was refluxed for 4.5 h and concentrated. The residue was triturated with methylenechloride containing a small amount of methanol. The precipitates were collected by filtration, rinsed with methylenechloride, and dried in vacuo to give 60 mg of the title compound (60%): mp 268° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ11.98 (s, 1H), 8.07 (br, 3H), 7.23 (d, 1H, J=1 Hz), 7.07 (d, 1H, J=1 Hz), 5.02~5.12 (m, 1H), 3.56 (dd, 1H, J=17, 10 Hz), 3.28~3.48 (m, 2H), 3.11 (dd, 1H, J=17, 3 Hz).

reactant | 8-bromo-5-phthalimidomethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 100 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)CN2C(C=1C(C2=O)=CC=CC1)=O | C19H12BrN3O4
reactant | HCl | 6 mL | Cl | ClH
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 8-Bromo-5-aminomethyl-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione hydrochloride | 60 mg, 60% | Cl.BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)CN | InChI=1S/C11H10BrN3O2.ClH/c12-6-1-5-2-7(4-13)15-9(5)8(3-6)14-10(16)11(15)17;/h1,3,7H,2,4,13H2,(H,14,16);1H
